US07666879B2
B. 7-Ethynyl-imidazo[1,2-a]pyridine
Combine 7-[(Triisopropylsilanyl)-ethynyl]-imidazo[1,2-a]pyridine (3.23 g, 10.82 mmol) and tetrabutylammonium fluoride (1.19 mL, 1.19 mmol, 1.0 M in THF) in THF (5 mL). Stir the mixture at room temperature for 40 minutes, then concentrate in vacuo to a black oil. Purify by column chromatography (ethyl acetate) to afford product (1.10 g, 71%). MS(ES), m/z 143.1 (M+1).

reactant | 7-[(Triisopropylsilanyl)-ethynyl]-imidazo[1,2-a]pyridine | 10.82 mmol, 3.23 g | C(C)(C)[Si](C(C)C)(C(C)C)C#CC1=CC=2N(C=C1)C=CN2 | C18H26N2Si
reactant | tetrabutylammonium fluoride | 1.19 mmol, 1.0 M, 1.19 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 7-Ethynyl-imidazo[1,2-a]pyridine | 1.10 g, 71% | C(#C)C1=CC=2N(C=C1)C=CN2 | C9H6N2
